US04736066
(b) 1-(N-Phenylglycyl)-L-proline, 1,1-dimethylethyl ester
To a solution of 1-(bromoacetyl)-L-proline, 1,1-dimethylethyl ester (2.1 g., 7.5 mmole) in distilled tetrahydrofuran (40 ml.) is added aniline (1.5 g., 15 mmole) and the reaction mixture is stirred overnight under nitrogen. The reaction mixture is diluted with ethyl acetate (200 ml.), washed with saturated sodium bicarbonate (2×50 ml.) and water (twice), dried (Na2SO4), and concentrated in vacuo into a dark oily residue (4.0 g.). Flash chromatography (LPS-1 silica gel, 10% ethyl acetate/methylene chloride) affords 2.2 g. of 1-N-phenylglycyl)-L-proline, 1,1-dimethylethyl ester as a dark oil which solidifies upon drying in high vacuum.

reactant | 1-(bromoacetyl)-L-proline, 1,1-dimethylethyl ester | 7.5 mmole, 2.1 g | BrCC(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C11H18BrNO3
reactant | aniline | 15 mmole, 1.5 g | NC1=CC=CC=C1 | C6H7N
reactant | L-proline, 1,1-dimethylethyl ester | N1[C@H](C(=O)OC(C)(C)C)CCC1 | C9H17NO2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(N-Phenylglycyl)-L-proline, 1,1-dimethylethyl ester | C1(=CC=CC=C1)NCC(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C17H24N2O3
